US09315438B2
(5) Preparation of (4-(2-chloro-5-iodobenzyl)phenyloxy)tert-butyldimethylsilane
4-(2-chloro-5-iodobenzyl)phenol (8.5 g, 24.7 mmol) and triethylamine (5.0 g, 49.5 mmol) were dissolved in methylene chloride (200 mL). To the resulting mixture were added tert-butyldimethylsilane chloride (5.6 g, 37.1 mmol) and 4-(dimethylamino)pyridine (305 mg, 2.5 mmol) at 0° C. After the completion of addition, the mixture was warmed up to room temperature, and stirred for 18 hr. To the mixture was added water (100 mL). The resulting mixture was separated into an aqueous phase and an organic phase. The aqueous phase was extracted with methylene chloride (100 mL×2). The organic phases were combined, washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under a reduced pressure. The resulting crude product was purified with a silica-gel column chromatography (ethyl acetate:petroleum ether=0-1:100) to produce 10.0 g of a product in a yield of 88%.

reactant | 4-(2-chloro-5-iodobenzyl)phenol | 24.7 mmol, 8.5 g | ClC1=C(CC2=CC=C(C=C2)O)C=C(C=C1)I | C13H10ClIO
reactant | triethylamine | 49.5 mmol, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilane chloride | 37.1 mmol, 5.6 g | [Cl-].C(C)(C)(C)[SiH](C)C
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.5 mmol, 305 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-(2-chloro-5-iodobenzyl)phenyloxy)tert-butyldimethylsilane | 10.0 g, yield of 88% | ClC1=C(CC2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)C=C(C=C1)I | C19H24ClIOSi
